US05374643
A solution of 3-(1,2,4-oxadiazol-5-yl)phenyl amine (0.97 g, 0.006 mol, prepared in sequence by the procedures described in Lin et al. J. Org. Chem., 1979, 44, 4160 and Lin et al., J. Org. Chem., 1979, 44, 4160) in acetonitrile (25 mL) and pyridine (0.97 mL, 0.95 g, 0.012 mol) under argon at 0° C. was treated with p-nitrophenyl chloroformate (1.21 g, 0.006 mol) and was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and an effort was made to partition the remaining oil between ethyl acetate and 10% citric acid, resulting in separation of a solid, insoluble in either phase. The solid was collected and triturated with anhydrous ether and dried in vacuo to yield 1.54 g of [3-(1,2,4-oxadiazol-5-yl)]phenylcarbamic acid, 4-nitrophenyl ester, m.p. 195°-197° C. TLC, silica gel, EtOAc/MeOH (20:1), Rf =0.75; M.S. (M+H)+ at 327, M.W. 326. This compound contained minor impurities and was used without further purification.

reactant | 3-(1,2,4-oxadiazol-5-yl)phenyl amine | O1N=CN=C1C=1C=C(C=CC1)N | C8H7N3O
reactant | pyridine | 0.012 mol, 0.97 mL, 0.95 g | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 0.006 mol, 1.21 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | [3-(1,2,4-oxadiazol-5-yl)]phenylcarbamic acid, 4-nitrophenyl ester | 1.54 g | O1N=CN=C1C=1C=C(C=CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H10N4O5
